US05714496
A solution of (±)-3-ethynyl-3-butyryloxyquinuclidine (4.42 g) in deionised water (700 ml) containing methanol (35 ml) was adjusted to pH 7.0 using an 0.1M aqueous sodium hydroxide solution (dispensed by a pH autotitrater). A suspension of pig liver eaterase (8.0 ml, 9200 units, in 3.2M aqueous ammonium sulphate solution at pH8; Sigma Chemical Company Ltd) was added to the reaction mixture and the mixture was stirred at ambient temperature whilst maintaining the pH at 7.0 using 0.1M aqueous sodium hydroxide solution (dispensed by a pH autotitrater). After 5.5 hours, 7.3 ml of the sodium hydroxide solution had been consumed, indicating that the hydrolysis was 35% complete. The pH of the reaction mixture was adjusted to 2.5 using 2M aqueous hydrochloric acid and the mixture was stirred for 10 minutes. 2M aqueous sodium hydroxide solution was then added to the mixture to give a pH of 7.05 and the mixture extracted with diethyl ether (3×200 ml, followed by 12×150 ml). The aqueous phase was separated, and freeze dried over a period of 48 hours to give a solid which was dissolved in deionised water (30 ml). The solution was filtered and the filtrate was basified to pH9 using 10.8M sodium hydroxide solution to give a solid. The solid was collected by filtration to give (+)-3-ethynyl-3-hydroxyquinuclidine, (554 mg) m.p. 204°-207° C., [α]20D =54.5° (C=0.99, methanol).

reactant | (±)-3-ethynyl-3-butyryloxyquinuclidine | 4.42 g | C(#C)C1(CN2CCC1CC2)OC(CCC)=O | C13H19NO2
reactant | methanol | 35 ml | CO | CH4O
reactant | sodium hydroxide | 0.1M | [OH-].[Na+]
reactant | sodium hydroxide | 0.1M | [OH-].[Na+]
solvent | water | 700 ml | O | H2O
solvent | ammonium sulphate | 3.2M | S(=O)(=O)([O-])[O-].[NH4+].[NH4+]
solvent | water | 30 ml | O | H2O
product | (+)-3-ethynyl-3-hydroxyquinuclidine | 554 mg | C(#C)C1(CN2CCC1CC2)O | C9H13NO
